US07220856B2
Preparation of Ethyl 7-chloro-4-quinolone-2-carboxylate
3-Chloroaniline (28.5 g, 200 mmol) and diethyl acetylenedicarboxylate (37.4 g, 220 mmol) are heated in MeOH (300 mL) for 3 h at reflux. The reaction mixture is concentrated to yield a yellow residue, which is heated in phenyl ether (400 mL), for ¾ h. The mixture is cooled to room temp. and diluted with hexane whereupon a white solid precipitates which is filtered off: 34.4 g.

reactant | 3-Chloroaniline | 200 mmol, 28.5 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | diethyl acetylenedicarboxylate | 220 mmol, 37.4 g | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | MeOH | 300 mL | CO | CH4O
solvent | phenyl ether | 400 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
product | Ethyl 7-chloro-4-quinolone-2-carboxylate | ClC1=CC=C2C(CC(=NC2=C1)C(=O)OCC)=O | C12H10ClNO3
